US07745438B2
1-bromo-3-fluoro-5-propoxy-benzene
Add propyl iodide (5.74 g, 33.77 mmol) to 3-bromo-5-fluoro-phenol (4.30 g, 22.51 mmol) and cesium carbonate (11.00 g, 33.77 mmol) in N,N-dimethylformamide (75 mL) and stir at room temperature 1 hour, then heat at 50° C. for 1 hour. Cool to room temperature and dilute with hexanes. Wash (water, 1N lithium chloride, saturated aqueous sodium chloride), dry (magnesium sulfate), filter and concentrate to give the desired compound as a colorless oil, 4.40 g (83.8%).

reactant | propyl iodide | 33.77 mmol, 5.74 g | C(CC)I | C3H7I
reactant | 3-bromo-5-fluoro-phenol | 22.51 mmol, 4.30 g | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
reactant | cesium carbonate | 33.77 mmol, 11.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 1-bromo-3-fluoro-5-propoxy-benzene | BrC1=CC(=CC(=C1)OCCC)F | C9H10BrFO
